US07582629B2
4-Chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide
Dry DMF (1.2 ml) was added dropwise to a mixture of oxalyl chloride (4.96 g, 39.1 mmol) and 4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide (2.2 g, 9.77 mmol) in DCM. The resulting solution was heated under reflux until it turned orange. The mixture was then cooled to room temperature and filtered affording the title compound (1.18 g, 50%) as white solid. 1H NMR (400 MHz, d6-DMSO): δ 7.41-7.54 (m, 3H), 7.77-7.80 (m, 2H), 12.70 (br.s, 1H); 13C-NMR (100 MHz, d6-DMSO): δ 126.1, 127.1, 128.3, 129.9, 130.6, 144.9, 162.2.

reactant | DMF | 1.2 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 39.1 mmol, 4.96 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 9.77 mmol, 2.2 g | OC=1C(NS(C1C1=CC=CC=C1)(=O)=O)=O | C9H7NO4S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.18 g, 50% | ClC=1C(NS(C1C1=CC=CC=C1)(=O)=O)=O | C9H6ClNO3S
